US03966530
Preparation of 4-phenyl-1,2,4-triazoline-3,5-dione
4-Phenylurazole (25gm) and anhydrous sodium sulphate were suspended in methylene chloride. The suspension was cooled in ice and nitrogen dioxide was passed in until all the 4-phenylurazole dissolved. The solution was filtered and the solvent removed under reduced pressure. The solid was either used as obtained or purified by sublimation (at 100°C and 10-5 mm of mercury).

reactant | 4-Phenylurazole | 25gm | C1(=CC=CC=C1)N1C(NNC1=O)=O | C8H7N3O2
reactant | sodium sulphate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | nitrogen dioxide | [N+](=O)[O-] | NO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-phenyl-1,2,4-triazoline-3,5-dione | C1(=CC=CC=C1)N1C(N=NC1=O)=O | C8H5N3O2
